US06350749B1
To a solution of 5-(3-bromophenyl)cyclohexane-1,3-dione (mp182-183° C.; 1.34 g) in DMF (20 ml) was added sodium methoxide (0.30 g), and the mixture was stirred, under argon atmosphere, at room temperature for 15 minutes. To the mixture was added chloroacetone (0.45 ml), and the mixture was stirred at 90° C. for 2 hours. To the mixture was added potassium carbonate (0.69 g), and the mixture was stirred at 150° C. overnight (13 hours). The reaction solution was cooled, to which was added ice-water. The mixture was extracted with ethyl acetate, and the upper layer was washed with saturated brine, dried (anhydrous magnesium sulfate), and concentrated under reduced pressure. The residue was subjected to silica gel chromatography and eluted with ethyl acetate/hexane to give 6-(3-bromophenyl)-3-methyl-4,5,6,7-tetrahydrobenzofuran-4-one (0.14 g).

reactant | 5-(3-bromophenyl)cyclohexane-1,3-dione | 1.34 g | BrC=1C=C(C=CC1)C1CC(CC(C1)=O)=O | C12H11BrO2
reactant | sodium methoxide | 0.30 g | C[O-].[Na+]
reactant | chloroacetone | 0.45 ml | ClCC(C)=O | C3H5ClO
reactant | potassium carbonate | 0.69 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 6-(3-bromophenyl)-3-methyl-4,5,6,7-tetrahydrobenzofuran-4-one | 0.14 g | BrC=1C=C(C=CC1)C1CC2=C(C(=CO2)C)C(C1)=O | C15H13BrO2
